US07691892B2
a) 1-[2-(3-chloro-phenyl)-2H-tetrazol-5-yl]-2-phenyl-ethane-1,2-diol
2-(3-Chloro-phenyl)-5-styryl-2H-tetrazole (127.0 mg, 0.446 mmol) was weighed into a vial and citric acid (171.35 mg, 0.892 mmol) was added followed by a 1:1 mixture of t-butanol and water (3 mL). Potassium osmate oxide hydrate (0.3 mg) was added followed by 4-methyl morpholine N-oxide (in 1.5 mL of water) and the reaction was allowed to stir overnight. The reaction was filtered and washed with water and 1M hydrochloric acid to yield the title compound as a beige solid (95.4 mg, 68%). 1H NMR (MeOD) δ (ppm): 8.086 (s, 1H); 8.012 (d of t, 1H); 7.584 (m, 2H); 7.252 (m, 5H); 5.148 (s, 2H).

reactant | 2-(3-Chloro-phenyl)-5-styryl-2H-tetrazole | 0.446 mmol, 127.0 mg | ClC=1C=C(C=CC1)N1N=C(N=N1)C=CC1=CC=CC=C1 | C15H11ClN4
reactant | citric acid | 0.892 mmol, 171.35 mg | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | t-butanol | C(C)(C)(C)O | C4H10O
reactant | 4-methyl morpholine N-oxide | 1.5 mL | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | water | 3 mL | O | H2O
product | 1-[2-(3-chloro-phenyl)-2H-tetrazol-5-yl]-2-phenyl-ethane-1,2-diol | 95.4 mg, 68% | ClC=1C=C(C=CC1)N1N=C(N=N1)C(C(O)C1=CC=CC=C1)O | C15H13ClN4O2
